US08236826B2
Production of 1-(4-benzylpiperazin-1-yl)-3-[4-(5-dibenzylaminopyridin-2-yloxy)phenyl]propane-1-one
3-[4-(5-aminopyridin-2-yloxy)phenyl]-1-(4-benzylpiperazin-1-yl)propane-1-one (1.0 g, 2.4 mmol) was dissolved in DMF (30 mL). To this solution were added potassium carbonate (0.73 g, 5.28 mmol), sodium iodide (0.76 g, 5.04 mmol) and benzyl bromide (0.60 mL, 5.04 mmol), and the resulting solution was stirred at room temperature overnight. This reaction solution was concentrated under reduced pressure. The residue was diluted with chloroform, and washed with water, saturated sodium bicarbonate solution and brine. The organic layer was dried over anhydrous magnesium sulfate, and evaporated. The residue was then purified by silica gel column chromatography (chloroform methanol=80:1), to thereby yield 0.67 g of the title compound.

reactant | 3-[4-(5-aminopyridin-2-yloxy)phenyl]-1-(4-benzylpiperazin-1-yl)propane-1-one | 2.4 mmol, 1.0 g | NC=1C=CC(=NC1)OC1=CC=C(C=C1)CCC(=O)N1CCN(CC1)CC1=CC=CC=C1 | C25H28N4O2
reactant | potassium carbonate | 5.28 mmol, 0.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 5.04 mmol, 0.76 g | [I-].[Na+]
reactant | benzyl bromide | 5.04 mmol, 0.60 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-(4-benzylpiperazin-1-yl)-3-[4-(5-dibenzylaminopyridin-2-yloxy)phenyl]propane-1-one | C(C1=CC=CC=C1)N1CCN(CC1)C(CCC1=CC=C(C=C1)OC1=NC=C(C=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C39H40N4O2
